US08378097B2
3-Chloro-6-(4-cyclopropylpiperazin-1-yl)pyridazine (8.0 g, 33.5 mmol), acetonitrile (100 mL), 1 M sodium carbonate solution (100.5 mL, 100.5 mmol) and bis(triphenylphosphine)palladium(II) chloride (1.17 g, 1.67 mmol) were mixed and degassed in vacuo under nitrogen. 3,4-Methylenedioxybenzeneboronic acid (8.34 g, 50.3 mmol) was added and the mixture was heated to 80° C. for 16 h. The precipitated product was filtered and washed with acetonitrile and water, and dried in vacuo. The solid was suspended in methanol (500 mL) and 2,2 equivalents of a 4M HCl in dioxane solution was added. The formed solution was filtered, concentrated in vacuo and acetonitrile (100 mL) was added. The suspension was stirred for 1 h, filtered and the solid dried in vacuo to yield 3-(1,3-benzodioxol-5-yl)-6-(4-cyclopropylpiperazin-1-yl)pyridazine as a yellow powder, 11.4 g, 86%.

reactant | 3-Chloro-6-(4-cyclopropylpiperazin-1-yl)pyridazine | 33.5 mmol, 8.0 g | ClC=1N=NC(=CC1)N1CCN(CC1)C1CC1 | C11H15ClN4
reactant | sodium carbonate | 100.5 mmol, 1 M, 100.5 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3,4-Methylenedioxybenzeneboronic acid | 50.3 mmol, 8.34 g | C1OC=2C=C(C=CC2O1)B(O)O | C7H7BO4
catalyst | bis(triphenylphosphine)palladium(II) chloride | 1.67 mmol, 1.17 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 3-(1,3-benzodioxol-5-yl)-6-(4-cyclopropylpiperazin-1-yl)pyridazine | O1COC2=C1C=CC(=C2)C=2N=NC(=CC2)N2CCN(CC2)C2CC2 | C18H20N4O2
